US07816344B2
4-(2-Benzyloxy propoxy-2-bromobenzaldehyde
A mixture of 2-bromo-4-fluoro-benzaldehyde (30.0 g, 148 mmol), Na2CO3 (78.31 g, 738.8 mmol) and 2-benzyloxy propanol (24.56 g, 147.8 mmol) in anhydrous DMSO (300 mL) was heated with stirring at 130° C. (bath temp) for 72 h under N2. The reaction mixture was cooled to rt and diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O then brine, dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (hexane to 30% EtOAc in hexane) to give the title compound: yield 3.84 g (7%).

reactant | 2-bromo-4-fluoro-benzaldehyde | 148 mmol, 30.0 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | Na2CO3 | 738.8 mmol, 78.31 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-benzyloxy propanol | 147.8 mmol, 24.56 g | C(C1=CC=CC=C1)OC(CO)C | C10H14O2
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 2-Benzyloxy propoxy-2-bromobenzaldehyde | C(C1=CC=CC=C1)OC(COC=1C(=C(C=O)C=CC1)Br)C | C17H17BrO3
